US06756378B2
To a stirred solution of methyl 3-chloro-2-hydroxypyridine-5-carboxylate (300 mg, 1.599 mmol), N-tert-butoxycarbonylprolinol (321.9 mg, 1.599 mmol), and Ph3P (503 mg, 1.919 mmol) in THF (3 mL) was slowly added DIAD (378 μl, 1.919 mmol) at room temp, and the mixture was stirred for 13 hr at 70° C. The mixture was concentrated and the residue was chromatographed on silica-gel with n-hexane-EtOAc (3:1, v/v) as eluent to give 235.6 mg (40%) methyl 3-chloro-2-[[1-(tert-butoxycarbonyl)-2-pyrrolidinyl]methoxy]pyridine-5-carboxylate as a pale yellowish oil. 1H-NMR (400 MHz, CDCl3) δ1.46 (s, 9H), 1.87 (m, 1H), 2.05 (br s, 3H), 3.43 (br s, 2H), 3.92 (s, 3H), 4.17, 4.26 (br s each, 1H), 4.45-4.51 (m, 1H), 4.50 (s, 1H), 8.21 (s, 1H), (s, 1H), 8.67 (d, J=2.0 Hz, 1H); MS (FAB) m/z 371 (M++1).

reactant | methyl 3-chloro-2-hydroxypyridine-5-carboxylate | 1.599 mmol, 300 mg | ClC=1C(=NC=C(C1)C(=O)OC)O | C7H6ClNO3
reactant | N-tert-butoxycarbonylprolinol | 1.599 mmol, 321.9 mg | C(C)(C)(C)OC(=O)N1[C@H](CO)CCC1 | C10H19NO3
reactant | Ph3P | 1.919 mmol, 503 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 1.919 mmol, 378 μl | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | methyl 3-chloro-2-[[1-(tert-butoxycarbonyl)-2-pyrrolidinyl]methoxy]pyridine-5-carboxylate | 235.6 mg, 40% | ClC=1C(=NC=C(C1)C(=O)OC)OCC1N(CCC1)C(=O)OC(C)(C)C | C17H23ClN2O5
